US04312876
Trans-1-ethoxycarbonyl-3-phenyl-4-piperidinol
To a solution of 48.4 g of 1-ethoxycarbonyl-3-phenyl-4-piperidone in 500 ml of denatured ethanol is added, dropwise at 0°-10° C. under nitrogen, a solution of 7.57 g of sodium borohydride in 325 ml of denatured ethanol, over a 30-minute period. After stirring overnight at room temperature the mixture is diluted with 1200 ml of saturated sodium chloride solution and stirred for one hour. The mixture is cautiously treated with 500 ml of 2 N hydrochloric acid and stirred until hydrogen evolution has slowed. The mixture is extracted with ether (3×600 ml) and the organic extracts concentrated in vacuo to a residue which was partitioned between ether (1200 ml) and saturated sodium chloride solution (600 ml). After drying the organic phase overnight over anhydrous sodium sulfate, removal of the solvent in vacuo affords a viscous orange gum. Purification of this crude mixture of isomers by high pressure liquid chromatography in 40% ethyl acetate/hexane affords the cis-isomer and trans-isomer as cloudy yellow gums. Trituration of the gummy trans-isomer with petroleum ether affords pure trans-isomer as a colorless solid, mp 49.5°-58° C.

reactant | 1-ethoxycarbonyl-3-phenyl-4-piperidone | 48.4 g | C(C)OC(=O)N1CC(C(CC1)=O)C1=CC=CC=C1 | C14H17NO3
reactant | sodium borohydride | 7.57 g | [BH4-].[Na+]
reactant | hydrochloric acid | 2 N, 500 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | ethanol | 325 ml | C(C)O | C2H6O
solvent | sodium chloride | 1200 ml | [Cl-].[Na+]
product | Trans-1-ethoxycarbonyl-3-phenyl-4-piperidinol | C(C)OC(=O)N1C[C@H]([C@@H](CC1)O)C1=CC=CC=C1 | C14H19NO3
